US07129239B2
Preparation of [9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-ylmethyl]-cyclohexylamine (16A-1)
C-[9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-methylamine I-(16A-1)b (19 mg, 0.047 mmol) was dissolved in methanol (1 ml) and to it was added cyclohexanone (1 drop) and acetic acid (1 drop). The reaction mixture was stirred at room temperature for 0.5 hour. and then sodium cyanoborohydride was added (5 mg) and the stirring continued until the reaction was complete (2 hours). The reaction mixture was concentrated and the residue diluted with saturated NaHCO3 solution and extracted into ethyl acetate. The organic layers were combined, dried (Na2SO4), filtered, and 5% methanol in ethyl acetate as the solvent to give title compound 16A-1. The residue was dissolved in methylene chloride and treated with 2M HCl/ether to form the desired HCl salt. Ether was added to the reaction mixture to precipitate the product. The excess ether was decanted and the crystals pumped to dryness on high vacuum to afford the hydrochloride salt of compound 16A-1 (6.8 mg, 30%): +ESI MS (M+1) 486.6; 1H NMR (500 MHz, CD3OD) δ 9.07 (s, 1H), 7.71 (d, J=8.8 Hz, 1H), 7.64 (d, J=2.1 Hz, 1H), 7.56 (dd, J=8.8, 2.1 Hz, 1H), 7.52 (d, J=8.8 Hz, 2H), 7.40 (d, J=8.8 Hz, 2H), 4.94 (s, 2H), 3.35 (m 1H), 2.28 (br d, J=12.4 Hz, 2H), 1.96 (br d, J=13.5 Hz, 2H), 1.78 (br d, J=13.0 Hz, 1H), 1.60–1.20 (m, 5H).

reactant | C-[9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-methylamine | 0.047 mmol, 19 mg | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)CN | C18H12Cl3N5
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
catalyst | cyclohexanone | 1 drop | C1(CCCCC1)=O | C6H10O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | [9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-ylmethyl]-cyclohexylamine | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)CNC1CCCCC1 | C24H22Cl3N5
